US04226876
A solution of 2-(2,3-dimethylphenoxymethyl)-2-imidazoline (20.4 g; 1.0 moles) in methylene chloride (300 ml) was cooled to -65° C. and a solution of phenylisocyanate (11.9 g; 1.0 moles) in methylene chloride (300 ml) added dropwise during 30 minutes. The reaction mixture was then allowed to warm to ambient temperature and left to stand for 2 hours, when a precipitate had formed. The reaction mixture was evaporated under reduced pressure and the residue recrystallised from acetone to give 1-N-phenylcarbamoyl-2-(2,3-dimethylphenoxymethyl)-2-imidazoline, m.p. 150°-152° C.

reactant | 2-(2,3-dimethylphenoxymethyl)-2-imidazoline | 1.0 moles, 20.4 g | CC1=C(OCC=2NCCN2)C=CC=C1C | C12H16N2O
reactant | phenylisocyanate | 1.0 moles, 11.9 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 1-N-phenylcarbamoyl-2-(2,3-dimethylphenoxymethyl)-2-imidazoline | C1(=CC=CC=C1)NC(=O)N1C(=NCC1)COC1=C(C(=CC=C1)C)C | C19H21N3O2
